US04877899
To a solution of (E)-3-fluoro-3-hexylsulfinyl-2propenyl acetate (3.0 g, 12.0 mmol) in 20 ml of methanol under N2 is added aqueous sodium hydroxide (3.0 g, 37.5 mmol). After 30 min. at RT, the solution is diluted with water and extracted with ether. The aqueous phase is diluted with saturated brine and extracted again with ether. The combined ether extracts are dried over Na2SO4 and stripped to give (E)-3-fluoro-3-hexylsulfinyl-2-propenol (cpd. 2, Table A).

reactant | (E)-3-fluoro-3-hexylsulfinyl-2propenyl acetate | 12.0 mmol, 3.0 g | C(C)(=O)OC\C=C(\S(=O)CCCCCC)/F | C11H19FO3S
reactant | sodium hydroxide | 37.5 mmol, 3.0 g | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | (E)-3-fluoro-3-hexylsulfinyl-2-propenol | F\C(=C/CO)\S(=O)CCCCCC | C9H17FO2S
